US07384963B2
N-(4-Chlorobenzyl)-N-(cyclopropylmethyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide was prepared from N-(4-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide and cyclopropylmethyl-bromide using method L. LCMS; retention time 3.89 min, MH+ 472/474.

reactant | N-(4-chlorobenzyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC1=CC=C(CNC(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)C=C1 | C24H20ClN3O2
reactant | cyclopropylmethyl-bromide | C1(CC1)CBr | C4H7Br
product | N-(4-Chlorobenzyl)-N-(cyclopropylmethyl)-2′-methyl-5′-(5-methyl-1,3,4-oxadiazol-2-yl)-1,1′-biphenyl-4-carboxamide | ClC1=CC=C(CN(C(=O)C2=CC=C(C=C2)C2=C(C=CC(=C2)C=2OC(=NN2)C)C)CC2CC2)C=C1 | C28H26ClN3O2
